US07605275B2
C. Preparation of 5-Nitro-cyclohex-1-enecarbaldehyde:
To a solution of 4-Nitro-heptanedial (35.2 g, 0.2 mol) in methylene chloride (0.7 L) were added pyrrolidine (2 ml, 0.024 mol) and benzoic acid (1.46 g, 0.012 mol), and the resulting mixture was refluxed for 10 to 15 hours. The reaction mixture was cooled to room temperature, washed with 1N HCl (170 ml), saturated with NaHCO3 (170 ml) and water (170 ml) and concentrated to give brownish oil with a purity of about 80%. The product was carried to the next step without further purification. Yield: 32.2 g, 75%. 1H NMR (400 MHz, CDCl3) δ 2.29-2.34 (m, 2H), 2.46-2.64 (m, 2H), 2.85-2.88 (m, 2H), 4.74 (m, 1H), 6.86 (m, 1H), 9.50 (s, 1H).

reactant | 4-Nitro-heptanedial | 0.2 mol, 35.2 g | [N+](=O)([O-])C(CCC=O)CCC=O | C7H11NO4
reactant | pyrrolidine | 0.024 mol, 2 ml | N1CCCC1 | C4H9N
reactant | benzoic acid | 0.012 mol, 1.46 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | methylene chloride | 0.7 L | C(Cl)Cl | CH2Cl2
product | 5-Nitro-cyclohex-1-enecarbaldehyde | [N+](=O)([O-])C1CCC=C(C1)C=O | C7H9NO3
